US06953806B2
In analogy to the procedure described in example 3.4, trans-4-chloro-N-[4-(4-hydroxy-butoxy)-cyclohexylmethyl]-N-methyl-benzenesulfonamide was treated with methanesulfonyl chloride to yield trans-methanesulfonic acid 4-(4-{[(4-chloro-benzenesulfonyl)-methyl-amino]-methyl}-cyclohexyloxy)-butyl ester as colorless solid, MS: 468 (MH+, 1Cl).

reactant | trans-4-chloro-N-[4-(4-hydroxy-butoxy)-cyclohexylmethyl]-N-methyl-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N(C)C[C@@H]1CC[C@H](CC1)OCCCCO | C18H28ClNO4S
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | trans-methanesulfonic acid 4-(4-{[(4-chloro-benzenesulfonyl)-methyl-amino]-methyl}-cyclohexyloxy)-butyl ester | ClC1=CC=C(C=C1)S(=O)(=O)N(C)C[C@@H]1CC[C@H](CC1)OCCCCOS(=O)(=O)C | C19H30ClNO6S2
